US05223518
Step b: α-(Ethynyl)-benzenemethanol
Place a mixture of α-[(trimethylsilyl)ethynyl]-benzene-methanol (4.09 g, 20 mmol) and tetrahydrofuran (25 mL) under argon atmosphere and cool to 0° C. Add, by dropwise addition, tetra-n-butylammonium fluoride (25 mL of a 1M solution in tetrahydrofuran, 25 mmol). Allow to warm to room temperature and stir for 1 hour. Partition between ethyl ether and water. Separate the organic phase, wash with saturated aqueous sodium chloride and concentrate in vacuo. Purify by silica gel chromatography (15% ethyl acetate/hexane) then purify further by distillation to yield 2.15 g of the title compound; bp 100°-110° C. @0.1 mm Hg.

reactant | α-[(trimethylsilyl)ethynyl]-benzene-methanol | 20 mmol, 4.09 g | C[Si](C)(C)C#CC(O)C1=CC=CC=C1 | C12H16OSi
reactant | tetra-n-butylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | α-(Ethynyl)-benzenemethanol | 2.15 g | C(#C)C(O)C1=CC=CC=C1 | C9H8O
